US08202879B2
In 100 ml of dimethylformamide was dissolved 4-(4-(3-fluorobenzyloxy)phenylamino)-6-iodoquinazoline hydrochloride (III-1, 5.0 g), and 1.25 g of sodium formate, dichlorobis(triphenylphosphine)palladium (324 mg), and triethylamine (3.2 ml) were added. The reaction mixture was degassed, and stirred under heating at 80° C. for 3 hours under the carbon monoxide atmosphere. Thereafter, the reaction mixture was poured into ice water, and extracted with ethyl acetate. The extract was washed with water and sodium chloride solution, and dried with magnesium sulfate. The dried solution was filtered with Celite, concentrated, and powdered with an ethyl acetate-hexane (1:2) to obtain 4-(4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline (IV-1, 2.86 g) as a yellow solid.

reactant | 4-(4-(3-fluorobenzyloxy)phenylamino)-6-iodoquinazoline hydrochloride | 5.0 g | Cl.FC=1C=C(COC2=CC=C(C=C2)NC2=NC=NC3=CC=C(C=C23)I)C=CC1
reactant | sodium formate | 1.25 g | C(=O)[O-].[Na+]
reactant | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 324 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline | 2.86 g | FC=1C=C(COC2=CC=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=O)C=CC1 | C22H16FN3O2
